US04567004
The procedure followed is as in Example 2, but 230.4 g (1.44 mol) of diethyl malonate are pumped in instead of the methyl acetoacetate. After analogous working up, 230.0 g of 90% pure diethyl methylmalonate are obtained on distillation. This corresponds to a yield of 82.6% of the theoretical yield, based on the diethyl malonate employed. The distillate also contains 9.3% of diethyl methoxymethylmalonate as a by-product. A residue of 3.1 g remains in the distillation flask.

reactant | diethyl malonate | 1.44 mol, 230.4 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
product | diethyl methylmalonate | 230.0 g, 90% | CC(C(=O)OCC)C(=O)OCC | C8H14O4
